US07906645B2
N-(3,4-Dichlorophenyl)-4-{[4-(2-phenylethyl)morpholin-2-yl]carbonyl}piperazine-1-carboxamide
To a stirred solution of N-(3,4-dichlorophenyl)-4-(morpholin-2-ylcarbonyl)piperazine-1-carboxamide (350 mg) in dichloromethane (10 ml) under an argon atmosphere was added phenacetaldehyde (0.16 mL) then NaBH(OAc)3 (383 mg) and the reaction was stirred for 3.5 h. The solvent was then removed under reduced pressure and dissolved in dichloromethane (40 ml) and 1M NaOH (20 ml). The organic layer was separated, dried (MgSO4) and evaporated. Purification by column chromatography 3-7% MeOH:DCM afforded the title compound (170 mg) as a white foam

reactant | N-(3,4-dichlorophenyl)-4-(morpholin-2-ylcarbonyl)piperazine-1-carboxamide | 350 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CNCCO1 | C16H20Cl2N4O3
reactant | phenacetaldehyde | 0.16 mL | C1=CC=C(C=C1)CC=O | C8H8O
reactant | NaBH(OAc)3 | 383 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3,4-Dichlorophenyl)-4-{[4-(2-phenylethyl)morpholin-2-yl]carbonyl}piperazine-1-carboxamide | 170 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CCO1)CCC1=CC=CC=C1 | C24H28Cl2N4O3
